US08084448B2
C. N-{4-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-butyl}-phthalamic Acid
A solution of 2-{(E)-4-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-but-3-enyl}-isoindole-1,3-dione (70 mg, 0.135 mmol) in 6 mL of EtOH/HOAc (4:2) is hydrogenated at 50 psi over 10% Pd/C (70 mg) for 18 h. The catalyst is filtered, the solvent is removed under reduced pressure and the residual yellow foam triturated with EtOAc to give the title compound as a solid: (M−1)−=446.

reactant | 2-{(E)-4-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-but-3-enyl}-isoindole-1,3-dione | 0.135 mmol, 70 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)/C=C/CCN1C(C2=CC=CC=C2C1=O)=O | C27H23N3O6S
reactant | EtOH HOAc | 6 mL | CCO.CC(=O)O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | N-{4-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-butyl}-phthalamic Acid | OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCCCNC(C=1C(C(=O)O)=CC=CC1)=O | C20H21N3O7S
